US08242133B2
A mixture of 1.7 g of 2-[3-(benzyloxy)pyridin-4-yl]-6-trifluoromethyl-oxazolo[5,4-b]pyridine, 40 ml of ethyl acetate and 10% palladium on carbon was reacted under the conditions of 40 bar and 40° C. for two hours. The reaction solution was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.0 g of 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol (hereinafter, referred to as “active compound 159”).

reactant | 2-[3-(benzyloxy)pyridin-4-yl]-6-trifluoromethyl-oxazolo[5,4-b]pyridine | 1.7 g | C(C1=CC=CC=C1)OC=1C=NC=CC1C=1OC2=NC=C(C=C2N1)C(F)(F)F | C19H12F3N3O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol | 1.0 g | FC(C=1C=C2C(=NC1)OC(=N2)C2=C(C=NC=C2)O)(F)F | C12H6F3N3O2
